US06077850
A 1 liter three neck round bottom flask equipped with equalizing addition funnel, magnetic stirer and temperature monitoring device was charged with N-(4-trifluromethylphenyl)-2,2-dimethyl propanamide (10.13 g, 41.4 mmol) and anhydrous tetrahydrafuran (150 mL). The reaction was chilled to -78° C. under nitrogen followed by slow addition of n-butyllithium (50 ml, 2.5 M in hexanes, 124 mmol) over 0.5 hours, such that the temperature of the reaction did not rise above -65° C. The contents were held at -78° C. for one hour, 0° C. for two hours, then chilled back to -78° C. Excess N,N-dimethylformamide (100 mL, 1.37 mol) was added. The contents were warmed to room temperature and stirred for two hours. Aqueous 1 N HCl was added to the reaction until the pH reached 1. The reaction was washed with water (2×200 mL), saturated ammonium chloride solution (2×200 mL), dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo to afford a yellow solid. The product was purified by flash chromatography (silica gel, 10% ethyl acetate, 90% hexanes) to yield, up(on concentration of the appropriate fractions, N-(2-formyl-4-trifluoromethylphenyl)-2,2-dimethylpropanamide as a solid (7.36 g, 65%): mp 69-73° C. 1H NMR (CDCl3 /300 MHz) 11.5 (br s, 1H), 9.99 (s, 1H), 8.67 (d, 1H, J=8.8 Hz), 7.94 (d, 1H, J=1.6 Hz), 7.83 (m, 1H,), 1.37 (s, 9H). ESHRMS m/z 274.1060 (M+H+, Calc'd 274.1055). Anal. Calc'd fcr C13H14F3NO2 : C, 57.14; H, 5.16; N, 5.13. Found: C, 57.15; H, 5.43; N, 5.01.

reactant | N-(4-trifluromethylphenyl)-2,2-dimethyl propanamide | 41.4 mmol, 10.13 g | FC(C1=CC=C(C=C1)NC(C(C)(C)C)=O)(F)F | C12H14F3NO
reactant | n-butyllithium | 124 mmol, 2.5 M, 50 ml | C(CCC)[Li]
reactant | N,N-dimethylformamide | 1.37 mol, 100 mL | CN(C=O)C | C3H7NO
reactant | HCl | 1 N | Cl | ClH
product | N-(2-formyl-4-trifluoromethylphenyl)-2,2-dimethylpropanamide | 7.36 g, 65% | C(=O)C1=C(C=CC(=C1)C(F)(F)F)NC(C(C)(C)C)=O | C13H14F3NO2
